US04394384
A mixture of 7-[2-(2-cyclopenten-1-yl)oxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer) (1.6 g), conc.hydrochloric acid (1.1 g), methanol (20 ml) and tetrahydrofuran (15 ml) was stirred for 2 hours at room temperature. The reaction mixture was evaporated. The residue was dissolved in an aqueous solution of sodium bicarbonate and the solution was adjusted to pH 3.0 with hydrochloric acid. The precipitates were collected by filtration, washed with water and dried over phosphorus pentoxide to give 7-[2-(2-cyclopenten-1-yl)oxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer) (1.3 g). mp. 201° to 213° C. (dec.).

reactant | 7-[2-(2-cyclopenten-1-yl)oxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | 1.6 g | C1(C=CCC1)ON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C18H17N5O6S2
reactant | hydrochloric acid | 1.1 g | Cl | ClH
reactant | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-cyclopenten-1-yl)oxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | 1.3 g | C1(C=CCC1)ON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C=1N=C(SC1)N | C17H17N5O5S2
